* C:\users\thetheos\My Documents\Université\BAC2\Q4.P_Elec\Ressources\allBlocks\Complete_Circuit\Complete_circuit.asc
XU1 VF1 0 V++ V-- VS1 TL084
XU2 N005 N003 V++ V-- N004 TL084
R1 N003 VS1 10k
R2 N005 VS2 10k
R3 N004 N003 20k
R4 N005 0 20k
XU4 N008 N009 VDP2 opamp Aol=100K GBW=100Meg
C2 N009 0 {C}
R9 N009 VF2 {1/{2*pi*fo*C}}
R10 N008 VF2 10k
R11 VDP2 N008 10k
R5 VF1 N001 10k
C1 VF1 N001 5.3n
C3 N001 N002 15.9µ
R6 N002 In1 1k
XU3 0 N001 V++ V-- VF1 TL084
V8 V++ 0 15
V9 V-- 0 -15
B1 P001 0 V=(white(2e6*time)/10)
V12 In1 P001 SINE(0 1 3000)
V14 In2 P002 SINE(0 1 3000)
B2 P002 0 V=(white(2e6*time)/10)
R8 VF2 N006 10k
C4 VF2 N006 5.3n
C5 N006 N007 15.9µ
R12 N007 In2 1k
XU5 0 N006 V++ V-- VF2 TL084
XU6 VDP2 0 V++ V-- VS2 TL084
* Saturation comparator
* Differential Comparator
* pi half Phase shifter
.param C=3.3n fo=3k
.inc opamp.sub
.include ../TL084.lib
.tran 10m
* Filter
* Mic. input
* Opamp voltage
.backanno
.end
